US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(3-Trifluoromethylphenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (CDCl3, 400 MHz) 7.38 (m, 1H), 7.11 (m, 3H), 5.00 (s, 2H), 3.79 (m, 2H), 3.73 (m, 2H), 3.27 (m, 2H), 3.23 (m, 2H), 2.30 (s, 3H) ppm; MS (ES) M+H expected=455.0, found 455.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3-Trifluoromethylphenyl)-piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C18H17ClF6N4O
